US08242125B2
To a solution of 4-{1-[5-(1-formyl-cyclopropyl)-isoxazol-3-ylcarbamoyl]-1H-indol-5-yloxy}-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester (120 mg, 0.226 mmol) in DCE (2 ml), dimethylamine (0.34 mL, 0.679 mmol) and sodium triacetoxyborohydride (192 mg, 0.905 mmol) are added. After 2 h the reaction is complete, brine is added and the product is extracted with EtOAc. The organics are dried and evaporated to give the crude product. The mixture is diluted with DCM (10 mL) and then TFA (10 ml, 130 mmol) is added. After 10 minutes the volatiles are removed in vacuo. The product is dissolved in EtOAc and then NH4OH is added. The organics are removed and the crude product separated via FCC eluting with DCM:MeOH:NH4OH (100:0:0 to 92:7:1) to give 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid [5-(1-dimethylaminomethyl-cyclopropyl)-isoxazol-3-yl]-amide. MS (ESI) m/z 460.9 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.55 (s, 1H) 8.29 (d, J=8.84 Hz, 1H) 8.16 (d, J=3.79 Hz, 1H) 7.47 (d, J=2.27 Hz, 1H) 7.16 (s, 1H) 6.82 (s, 1H) 6.75 (d, J=4.04 Hz, 1H) 4.06-4.15 (m, 1H) 2.57 (s, 2 H) 2.20 (s, 6H) 1.17 (d, J=2.27 Hz, 2H) 0.93 (d, J=2.27 Hz, 2H).

reactant | 4-{1-[5-(1-formyl-cyclopropyl)-isoxazol-3-ylcarbamoyl]-1H-indol-5-yloxy}-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | 0.226 mmol, 120 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1)OC=1C=C2C=CN(C2=CC1)C(NC1=NOC(=C1)C1(CC1)C=O)=O | C27H26N6O6
reactant | dimethylamine | 0.679 mmol, 0.34 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 0.905 mmol, 192 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | TFA | 130 mmol, 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
solvent | brine | [Cl-].[Na+].O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid [5-(1-dimethylaminomethyl-cyclopropyl)-isoxazol-3-yl]-amide | CN(C)CC1(CC1)C1=CC(=NO1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNC2 | C24H25N7O3
